* Ideal unidirectional switch model

.SUBCKT unidir_switch drain gate source
+PARAMS: R_ON=1e-4 VD_ON=0

* Gate aux resistor
*R_auxGATE gate 0 1

SW_UNI source mid_node UNIDIR OFF CONTROL={IF(V(gate)>0.5, 2, IF( I(V_UNI) > 0, 2, 0))}

V_UNI mid_node drain {VD_ON}

.MODEL UNIDIR VSWITCH RON={IF(R_ON<1e-5,1e-5,R_ON)} ROFF=1e5 ON=0.99 OFF=0.01

.ENDS unidir_switch
